US08975256B2
4-Benzoyloxyanisole (Reference Compound No. 15-1)
4-Hydroxyanisole (1.25 g, 10.1 mmol) was dissolved in anhydrous dichloromethane (10 mL), and triethylamine (4.25 mL, 30.5 mmol) and benzoyl chloride (1.40 mL, 12.1 mmol) were added thereto successively. The reaction mixture was stirred at room temperature for 4 hours. Chloroform (50 mL) and water (50 mL) were added to the reaction mixture and partitioned. The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was filtered with hexane (50 mL) to give the titled reference compound (2.24 g) as a colorless solid. (Yield 98%)

reactant | 4-Hydroxyanisole | 10.1 mmol, 1.25 g | OC1=CC=C(C=C1)OC | C7H8O2
reactant | triethylamine | 30.5 mmol, 4.25 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 12.1 mmol, 1.40 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Benzoyloxyanisole | 2.24 g, Yield 98% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)OC | C14H12O3
